US04831151
864 mg (2 mmol) of 1-(benzylideneamino)-3-(p-chlorophenacyl)-2-ethylimidazolium bromide are subjected to a steam distillation in 5 ml of water and 2 ml of 48 percent hydrobromic acid until benzaldehyde no longer evolves. The solution is concentrated and te precipitated product is filtered off. There is obtained 1-amino-3-(p-chlorophenacyl)-2-ethylimidazolium bromide of melting point 209°-210°.

reactant | 1-(benzylideneamino)-3-(p-chlorophenacyl)-2-ethylimidazolium bromide | 2 mmol, 864 mg | [Br-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC(=O)C1=CC=C(C=C1)Cl)CC
reactant | hydrobromic acid | 2 ml | Br | BrH
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | 5 ml | O | H2O
product | 1-amino-3-(p-chlorophenacyl)-2-ethylimidazolium bromide | [Br-].N[N+]1=C(N(C=C1)CC(=O)C1=CC=C(C=C1)Cl)CC | InChI=1S/C13H15ClN3O.BrH/c1-2-13-16(7-8-17(13)15)9-12(18)10-3-5-11(14)6-4-10;/h3-8H,2,9,15H2,1H3;1H/q+1;/p-1
